US07943715B2
There was supplied 1.35 g of imidazole manufactured by Wako Pure Chemical Industries, Ltd. to a 50 mL-Schlenk tube, and thereto, 10 mL of anhydrous N,N-dimethylformaide manufactured by Wako Pure Chemical Industries, Ltd., and 1.2 mL of 1,6-heptadien-4-ol manufactured by Aldrich Chemical Company were added. The obtained mixture was cooled down to 0° C. To the mixture, 1.93 mL of triisopropylsilyl chloride manufactured by Tokyo Chemical Industry Co., Ltd. was added, and the resultant mixture was stirred for 85 hours at a room temperature. Then, an excess amount of water was added thereto, thereby terminating the reaction. A product contained in the reaction mixture was extracted with hexane, and the obtained organic extract was dried over anhydrous sodium sulfate manufactured by Nacalai Tesque, Inc. The dried hexane solution was distilled in vacuo, thereby obtaining 1.1 g (yield: 46%) of 4-(triisopropylsiloxy)-1,6-heptadiene at 93° C. under 21 mmHg as clear colorless oil.

reactant | imidazole | 1.35 g | N1C=NC=C1 | C3H4N2
reactant | 1,6-heptadien-4-ol | 1.2 mL | C=CCC(CC=C)O | C7H12O
reactant | triisopropylsilyl chloride | 1.93 mL | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | water | O | H2O
product | 4-(triisopropylsiloxy)-1,6-heptadiene | 1.1 g, yield: 46% | C(C)(C)[Si](OC(CC=C)CC=C)(C(C)C)C(C)C | C16H32OSi
